US09108946B2
Alternate synthetic route to: N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-3-((3,3,3-trifluoropropyl)thio)propanamide (Compound 8.5)
To 3-neck round bottomed flask (50 mL) was added sodium hydride (60% in oil, 0.130 g, 3.28 mmol) and sulfolane (16 mL). The gray suspension was stirred for 5 minutes then N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-((3,3,3-trifluoropropyl)thio)propanamide (1.20 g, 3.16 mmol) dissolved in sulfolane (25 mL) was slowly added dropwise over 5 minutes. The mixture became a light gray suspension after 3 minutes and was allowed to stir for 5 minutes after which time ethyl bromide (0.800 mL, 10.7 mmol) and potassium iodide (0.120 g, 0.720 mmol) were added sequentially. The cloudy suspension was then allowed to stir at room temperature. The reaction was quenched after 6 hours by being poured drop-wise into cooled ammonium formate/acetonitrile solution (30 mL). The resulting orange colored solution was stirred and tetrahydrofuran (40 mL) was added. The mixture was assayed, using octanophenone as a standard, and found to contain 1.09 g (85%) of the desired product with a selectivity versus the retro-Michael-like decomposition product of 97:3.

reactant | sodium hydride | 3.28 mmol, 0.130 g | [H-].[Na+]
reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-((3,3,3-trifluoropropyl)thio)propanamide | 3.16 mmol, 1.20 g | ClC1=NN(C=C1NC(CCSCCC(F)(F)F)=O)C=1C=NC=CC1 | C14H14ClF3N4OS
reactant | ethyl bromide | 10.7 mmol, 0.800 mL | C(C)Br | C2H5Br
reactant | potassium iodide | 0.720 mmol, 0.120 g | [I-].[K+]
solvent | sulfolane | 25 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | sulfolane | 16 mL | S1(=O)(=O)CCCC1 | C4H8O2S
product | N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-3-((3,3,3-trifluoropropyl)thio)propanamide | ClC1=NN(C=C1N(C(CCSCCC(F)(F)F)=O)CC)C=1C=NC=CC1 | C16H18ClF3N4OS
